US07534788B2
(4-Isopropyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanone
In a flask were mixed together the above prepared 5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid (0.220 g, 0.549 mmol, corrected for purity), 1-isopropylpiperazine (0.084 g, 1.2 eq.), (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate (0.291 g, 1.2 eq.) and 2.4 eq. of N-ethyldiisopropyl-amine (0.225 mL) in 2.2 mL of abs. THF and allowed to react during one night at ambient temperature. Pouring onto crashed ice/AcOEt/NH4Cl-solution, twofold extraction with AcOEt, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, NEt3/AcOEt=4/96) produced 0.127 g of the title compound as light yellow oil.

reactant | 5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-carboxylic acid | 0.549 mmol, 0.220 g | C(C)(C)N1CCC(CC1)OC=1C=CC2=C(C=C(O2)C(=O)O)C1 | C17H21NO4
reactant | 1-isopropylpiperazine | 0.084 g, 1.2 eq. | C(C)(C)N1CCNCC1 | C7H16N2
reactant | (benzotriazol-1-yloxy)-tris-(dimethylamino)-phosphonium hexafluorophosphate | 0.291 g, 1.2 eq. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N-ethyldiisopropyl-amine | 0.225 mL, 2.4 eq. | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | (4-Isopropyl-piperazin-1-yl)-[5-(1-isopropyl-piperidin-4-yloxy)-benzofuran-2-yl]-methanone | 0.127 g | C(C)(C)N1CCN(CC1)C(=O)C=1OC2=C(C1)C=C(C=C2)OC2CCN(CC2)C(C)C | C24H35N3O3
